US05185346
To a stirred mixture of 1.25 parts of magnesium, 14 parts of 1,1'-oxybisethane and 8 parts of bromobenzene was added a solution of 8 parts of intermediate 1, namely 7-quinolinecarboxaldehyde, in 72 parts of tetrahydrofuran, keeping the temperature between 0° C. and 5° C. After stirring for 12 hours at room temperature, the reaction mixture was poured into 300 parts of ice-water. The product was extracted with 1,1'-oxybisethane (3×70 parts). The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 98:2). The eluent of the desired fraction was evaporated, yielding 3.2 parts (26.6%) of α-phenyl-7-quinolinemethanol; mp. 118° C.(interm. 2).

reactant | magnesium | [Mg] | Mg
reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | 7-quinolinecarboxaldehyde | N1=CC=CC2=CC=C(C=C12)C=O | C10H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-phenyl-7-quinolinemethanol | 26.6% | C1(=CC=CC=C1)C(O)C1=CC=C2C=CC=NC2=C1 | C16H13NO
